US07476741B2
4-(3-Bromo-4,5-dimethoxyphenyl)-2-methoxy-7-methyl-pyrrolo[2,3-h]chroman
To a solution of 4-(3-bromo-4,5-dimethoxyphenyl)-2-hydroxy-7-methyl-pyrrolo[2,3-h]chroman (5 mg; 0.012 mmol ) in methanol (0.5 ml) at 0° C. was added acetyl chloride (10 μl). The mixture was warmed to room temperature and stirred at this temperature for 3 h. Saturated sodium bicarbonate solution was added and the reaction mixture was extracted with dichloromethane. The extract was washed with saturated sodium chloride solution, dried and evaporated. The crude product was passed through bond-elute (hexane:ethyl acetate=9:1 as eluent), giving the title compound (3 mg; 58%). 1H NMR (acetone-d6): 7.14 (d, J=2.7 Hz) and 7.13 (d, J=2.9 Hz) (1H), 6.94-7.02 (m, 2H), 6.89 and 6.88 (d each, J=8.5 Hz, 1H), 6.50-6.57 (m, 2H), 5.32 (t, J=2.6 Hz) and 5.27 (dd, J=2.3, 7.6 Hz) (1H), 4.34 (dd, J=6.6, 9.5 Hz) and 4.27 (dd, J=6.0, 11.3 Hz) (1H), 3.85, 3.82, 3.81, 3.80, 3.79, 3.78 (s each, 9H), 3.59 and 3.50 (s each, 3H), 2.43 (ddd, J=2.3, 6.6, 13.3 Hz) and 2.12-2.30 (m) (2H).

reactant | 4-(3-bromo-4,5-dimethoxyphenyl)-2-hydroxy-7-methyl-pyrrolo[2,3-h]chroman | 0.012 mmol, 5 mg | BrC=1C=C(C=C(C1OC)OC)C1CC(OC2=C3C(=CC=C12)N(C=C3)C)O | C20H20BrNO4
reactant | acetyl chloride | 10 μl | C(C)(=O)Cl | C2H3ClO
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
solvent | methanol | 0.5 ml | CO | CH4O
product | 4-(3-Bromo-4,5-dimethoxyphenyl)-2-methoxy-7-methyl-pyrrolo[2,3-h]chroman | 3 mg, 58% | BrC=1C=C(C=C(C1OC)OC)C1CC(OC2=C3C(=CC=C12)N(C=C3)C)OC | C21H22BrNO4
